US06350774B1
Preparation of 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl 4-[2-(2-Oxopyrrolidin-1-yl)ethoxy]-phenyl Ketone.
Sodium hydride (60% oil dispersion, 50 mg) was suspended in DMF (2.0 mL) and stirred at ambient temperature for 15 min under argon before 1-(2-hydroxyethyl)-2-pyrrolidinone (87 μL) was added. After stirring for 15 min, 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl ketone (223 mg) in 1 mL of DMF was introduced and the resulting solution was stirred at ambient temperature for 3.5 h. The reaction mixture was diluted with brine (50 mL) and extracted with EtOAc (3×50 mL). The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Chromatography with Et3N:MeOH:EtOAc (5:5-10:90-85) afforded the product as a colorless oil (210 mg).

reactant | Sodium hydride | 50 mg | [H-].[Na+]
reactant | 1-(2-hydroxyethyl)-2-pyrrolidinone | 87 μL | OCCN1C(CCC1)=O | C6H11NO2
reactant | 4-fluorophenyl 2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl ketone | 223 mg | N1(CCCC1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC=C(C=C2)F | C27H24FNO2S
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 2-[4-[2-(1-Pyrrolidinyl)ethoxy]phenyl]-benzo[b]thiophen-3-yl 4-[2-(2-Oxopyrrolidin-1-yl)ethoxy]-phenyl Ketone | 210 mg | O=C1N(CCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=CC=C2 | C33H34N2O4S
